US07528143B2
2-Chloro-5-methyl-N-(2,3-dimethylphenyl)pyrimidin-4-amine (Intermediate 61)
A mixture of 2-chloro-5-methylpyrimidin-4-amine (143.6 mg, 1 mmol), 1-bromo-2,3-dimethylbenzene (222 mg, 1.2 mmol), Pd2(dba)3 (92 mg, 0.1 mmol), Xantphos (174 mg, 0.3 mmol) and cesium carbonate (1.3 g, 4 mmol) were suspended in dioxane (150 mL) and heated at reflux under the argon atmosphere for 20 h. The mixture was filtered and the filtrate concentrated in vacuo. The residue was dissolved in EtOAc (10 mL) and added hexanes (100 mL). The solid was collected by filtration and washed with hexanes to afford the crude title compound as a yellow solid.

reactant | 2-chloro-5-methylpyrimidin-4-amine | 1 mmol, 143.6 mg | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 1-bromo-2,3-dimethylbenzene | 1.2 mmol, 222 mg | BrC1=C(C(=CC=C1)C)C | C8H9Br
reactant | Xantphos | 0.3 mmol, 174 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 4 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.1 mmol, 92 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Chloro-5-methyl-N-(2,3-dimethylphenyl)pyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=C(C(=CC=C1)C)C)C | C13H14ClN3
